US09108946B2
Alternate synthetic route to: 3-(3-Chloro-1H-pyrazol-1-yl)pyridine (5b)
Crude 3-(3-chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine (54.1 g, 232 mmol, 77.8% purity) was introduced into a 3 L three-neck round bottom flask. Water (530 mL) was then added. The mixture was heated to 60° C. and a potassium hydroxide solution (165 g, 2940 mmol) in water (500 mL) was added. The dark brown mixture was heated to 90° C. A potassium ferricyanide solution (253 g, 768 mmol) in water (700 mL) was added slowly over 30 minutes leading to brown-red mixture. The mixture was stirred at 90° C. for another 1.5 hours. The reaction mixture was cooled to below 45° C. and filtered. The filter cake was washed with water (300 mL) affording crude product as a brown solid. The crude product was then dissolved in acetonitrile (400 mL) and filtered. The organic filtrate was dried and concentrated to afford the title product as a brown solid (28.8 g, 69%, 94% purity).

reactant | 3-(3-chloro-4,5-dihydro-1H-pyrazol-1-yl)pyridine | 232 mmol, 54.1 g | ClC1=NN(CC1)C=1C=NC=CC1 | C8H8ClN3
reactant | potassium hydroxide | 2940 mmol, 165 g | [OH-].[K+]
solvent | water | 500 mL | O | H2O
solvent | water | 700 mL | O | H2O
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
catalyst | potassium ferricyanide | 768 mmol, 253 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
solvent | Water | 530 mL | O | H2O
product | 3-(3-Chloro-1H-pyrazol-1-yl)pyridine | 28.8 g | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
